US04331676
2.2 g (20 mmol) of triethylamine and a solution of 1.4 ml (10 mmol) of isobutyl chloroformate in 20 ml of dry methylene chloride are added dropwise in succession to a solution, cooled to -10°, of 2.82 g (10 mmol) of 4-p-nitrobenzyloxycarbonylaminobutyric acid in 50 ml of dry methylene chloride. The reaction mixture is stirred for one hour and subsequently a strong current of hydrogen sulphide is passed through for a period of 2 hours. After acidifying with 2 N sulphuric acid, the organic phase is separated, dried and concentrated in vacuo. The 4-p-nitrobenzyloxycarbonylaminothiobutyric acid obtained can be used without further purification.

reactant | triethylamine | 20 mmol, 2.2 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 10 mmol, 1.4 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-p-nitrobenzyloxycarbonylaminobutyric acid | 10 mmol, 2.82 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCC(=O)O)C=C1 | C12H14N2O6
reactant | hydrogen sulphide | S | H2S
reactant | sulphuric acid | 2 N | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-p-nitrobenzyloxycarbonylaminothiobutyric acid | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCC(=S)O)C=C1 | C12H14N2O5S
